US05719145
A mixture of 7-nitro-l-tetralone (30 g) (manufactured by Lancaster Co.), 80% sulfuric acid (10 ml) and dioxane (60 ml) was heated to 90° C. and a 40% glyoxylic acid aqueous solution (30 ml) was added by three portions of 10 ml each at an interval of 1 hour and heated and refluxed for 3 hours. After allowing to cool the reaction mixture, the precipitated solid was filtered, washed with cold water and dried under reduced pressure to obtain 7-nitro-1-oxo-1,2,3,4-tetrahydro-2-naphthylideneacetic acid (33.3 g).

reactant | 7-nitro-l-tetralone | 30 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=O | C10H9NO3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | glyoxylic acid | 30 ml | C(C=O)(=O)O | C2H2O3
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 7-nitro-1-oxo-1,2,3,4-tetrahydro-2-naphthylideneacetic acid | 33.3 g | [N+](=O)([O-])C1=CC=C2CCC(C(C2=C1)=O)=CC(=O)O | C12H9NO5
